US05646310
A mixture of 92 mg of N-(2-cyanoethyl)-2,2-bis-fluoromethyl-6-trifluoromethyl-2H-1-benzopyran-4-carbamide, 60 mg of Lawesson's reagent and 2 ml of benzene was heated while stirring at 80° C. for 1 hour. The reaction mixture was subjected to silica gel chromatography (an eluting solvent: methylene chloride) to obtain 50 mg of N-(2-cyanoethyl)-2,2-bisfluoromethyl-6-trifluoromethyl-2H-1-benzopyran-4-carbothioamide having a melting point of 105°-106° C.

reactant | N-(2-cyanoethyl)-2,2-bis-fluoromethyl-6-trifluoromethyl-2H-1-benzopyran-4-carbamide | 92 mg | C(#N)CCNC(=O)C1=CC(OC2=C1C=C(C=C2)C(F)(F)F)(CF)CF | C16H13F5N2O2
reactant | Lawesson's reagent | 60 mg | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
reactant | benzene | 2 ml | C1=CC=CC=C1 | C6H6
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | N-(2-cyanoethyl)-2,2-bisfluoromethyl-6-trifluoromethyl-2H-1-benzopyran-4-carbothioamide | 50 mg | C(#N)CCNC(=S)C1=CC(OC2=C1C=C(C=C2)C(F)(F)F)(CF)CF | C16H13F5N2OS
